US05079260
A solution of 1-fluorenemethanol (5.0 g, 25.6 mmol) in 50 mL of THF was charged with butyl lithium solution (11.0 mL, 26.0 mmol) at -78° C. After 15 min of stirring iodomethane (25.1 g, 176.1 mmol) was introduced. The reaction mixture was stirrer for 3 days at room temperature. The reaction was monitored by TLC (silica, 25% ethyl acetate in hexane). As soon as no more starting material was detected the reaction was quenched with water (30 mL). The organic layer was separated, washed with water, brine, dried over magnesium sulfate and evaporated. A short path chromatography of the residual oil (silica, 5% ethyl acetate in hexane) afforded 4.5 g (70.0%) of 1-methoxymethylfluorene.

reactant | 1-fluorenemethanol | 25.6 mmol, 5.0 g | C1(=CC=CC=2C3=CC=CC=C3CC12)CO | C14H12O
reactant | butyl lithium | 26.0 mmol, 11.0 mL | C(CCC)[Li]
reactant | iodomethane | 176.1 mmol, 25.1 g | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-methoxymethylfluorene | 4.5 g, 70.0% | COCC1=CC=CC=2C3=CC=CC=C3CC12 | C15H14O
